US04220646
6-(7-Chloro-1,8-naphthyridin-2-yl)-5-hydroxy-7-oxo-2,3,6,7-tetrahydro-5H-1,4-dithiino[2,3-c]pyrrole (2.5 g.) is added, at 0° C., to a suspension of sodium hydride (0.20 g.) in anhydrous dimethylformamide (10 cc.). The reaction mixture is stirred for 1 hour at 2° C., and then a solution of 1-acetyl-4-chlorocarbonylpiperazine (2.85 g.) in anhydrous dimethylformamide (20 cc.) is added. After 18 hours at 2° C., the reaction mixture is diluted with distilled water (100 cc.). The precipitate formed is filtered off, washed with distilled water (10 cc.) and dried in air. The product obtained (3.5 g.) is dissolved in chloroform (50 cc.), and the solution is filtered through silica gel (50.0 g.) contained in a column of diameter 4.1 cm. Elution is carried out using a mixture of chloroform and methanol (98-2 by volume; 400 cc.), and the eluate is discarded. Elution is continued using a similar mixture (400 cc). This eluate is evaporated to dryness under reduced pressure (20 mm.Hg). The chromatographed product is purified by recrystallisation from a mixture of dimethylformamide and ethanol (50-50 by volume; 20 cc.). 5-(4-Acetylpiperazin-1-yl)carbonyloxy-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-2,3,6,7-tetrahydro-5H-1,4-dithiino[2,3-c]pyrrole (1.40 g.), which melts at 271° C., is obtained.

reactant | 6-(7-Chloro-1,8-naphthyridin-2-yl)-5-hydroxy-7-oxo-2,3,6,7-tetrahydro-5H-1,4-dithiino[2,3-c]pyrrole | 2.5 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=C(C1O)SCCS2)=O | C14H10ClN3O2S2
reactant | sodium hydride | 0.20 g | [H-].[Na+]
reactant | 1-acetyl-4-chlorocarbonylpiperazine | 2.85 g | C(C)(=O)N1CCN(CC1)C(=O)Cl | C7H11ClN2O2
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | water | 100 cc | O | H2O
solvent | chloroform | 50 cc | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-Acetylpiperazin-1-yl)carbonyloxy-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-2,3,6,7-tetrahydro-5H-1,4-dithiino[2,3-c]pyrrole | 1.40 g | C(C)(=O)N1CCN(CC1)C(=O)OC1C2=C(C(N1C1=NC3=NC(=CC=C3C=C1)Cl)=O)SCCS2 | C21H20ClN5O4S2
